US07557114B2
(a) 2-Benzyl-5-(2-methyl-2,5-dihydro-furan-3-yl)-2,3-dihydro-1H-isoindole
To a solution of 0.65 mmol 3-(2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-2-methyl-tetrahydro-furan-3-ol (Example A64(a)) and 1.81 mmol triethylamine in 2 ml dichloromethane at 0° C. was added dropwise a solution of 0.84 methanesulfonyl chloride in 0.3 ml dichloromethane. The mixture was stirred at room temperature for 2 h and then re-cooled to 0° C. 1.94 mmol DBU was added and the mixture stirred at room temperature overnight. The reaction mixture was then concentrated in vacuo and the residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a colourless oil (33% yield). MS (m/e): 292.1 ([M+H]+, 100%).

reactant | 3-(2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-2-methyl-tetrahydro-furan-3-ol | 0.65 mmol | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C1(C(OCC1)C)O | C20H23NO2
reactant | triethylamine | 1.81 mmol | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | DBU | 1.94 mmol | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.3 ml | ClCCl | CH2Cl2
product | 2-Benzyl-5-(2-methyl-2,5-dihydro-furan-3-yl)-2,3-dihydro-1H-isoindole | 33% yield | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C=1C(OCC1)C | C20H21NO
